US05698553
A solution of 36.2 g of 1,2,3,4-tetrahydro-6-(2-(3-benzylpiperidino)-1-oxoethyl)quinolin-2-one ("A"; racemate; obtainable by reaction of 1,2,3,4-tetrahydroquinolin-2-one with chloroacetyl chloride/AlCl3 /DMF to give 6-chloroacetyl-1,2,3,4-tetrahydroquinolin-2-one ("B") and subsequent reaction with (racemic) 3-benzylpiperidine in ethanol in the presence of triethylamine) in 725 ml of methanol is treated with 3.8 g of NaBH4 and then stirred at 10° for 2 hours. Customary working up (sodium hydroxide solution/dichloromethane) gives 6-(2-(3-benzylpiperidino)-1-hydroxyethyl)-1,2,3,4-tetrahydroquinolin-2-one, racemate ("C").

reactant | 1,2,3,4-tetrahydro-6-(2-(3-benzylpiperidino)-1-oxoethyl)quinolin-2-one | 36.2 g | C(C1=CC=CC=C1)C1CN(CCC1)CC(=O)C=1C=C2CCC(NC2=CC1)=O | C23H26N2O2
reactant | 1,2,3,4-tetrahydroquinolin-2-one | N1C(CCC2=CC=CC=C12)=O | C9H9NO
reactant | chloroacetyl chloride AlCl3 DMF | ClCC(=O)Cl.[Al+3].[Cl-].[Cl-].[Cl-].CN(C)C=O
reactant | 6-chloroacetyl-1,2,3,4-tetrahydroquinolin-2-one | ClCC(=O)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | (racemic) 3-benzylpiperidine | C(C1=CC=CC=C1)C1CNCCC1 | C12H17N
reactant | NaBH4 | 3.8 g | [BH4-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | methanol | 725 ml | CO | CH4O
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 6-(2-(3-benzylpiperidino)-1-hydroxyethyl)-1,2,3,4-tetrahydroquinolin-2-one | C(C1=CC=CC=C1)C1CN(CCC1)CC(O)C=1C=C2CCC(NC2=CC1)=O | C23H28N2O2
